US04663341
Into a 1000 ml three necked flask equiped with a reflux condenser and an addition funnel was placed 8.8 g of magnesium turnings (0.36 mole) and 400 ml of diethyl ether. After activation of the magnesium with 0.02 g of iodine, the mixture was heated to reflux and a solution of 44 g (0.35 mole) of benzyl chloride in ethyl ether was added at a rate to maintain the reflux. When the reaction had subsided, a solution of 50 g (0.29 mole) of 3,4-dichlorobenzaldehyde in 75 ml of diethyl ether was added at a rate to maintain reflux. After 15 minutes, the reaction was quenched with water and acidified with dilute hydrochloric acid. The organic layer was washed with brine, dried, and concentrated in vacuo yielding 75 g of 3,4-dichlorophenyl benzyl carbinol which was used without further purification.

reactant | magnesium | 0.36 mole, 8.8 g | [Mg] | Mg
reactant | benzyl chloride | 0.35 mole, 44 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 3,4-dichlorobenzaldehyde | 0.29 mole, 50 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 75 ml | C(C)OCC | C4H10O
catalyst | iodine | 0.02 g | II | I2
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
product | 3,4-dichlorophenyl benzyl carbinol | 75 g | ClC=1C=C(C=CC1Cl)C(O)CC1=CC=CC=C1 | C14H12Cl2O
